US07323475B2
c. 7-(4-Fluoro-phenoxy)-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester
Sodium (7.2 g, 310 mmol) was dissolved in n-butanol (300 ml) with stirring at 70° C. Afterwards, the temperature was raised to 95-100° C. and a solution of [5-(4-Fluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid methyl ester (49.4 g, 150 mmol) in hot n-butanol (300 ml) was added with vigorous stirring. The mixture was stirred for another 90 min at 95-100° C. and was then allowed to cool to 60° C. with stirring before 2 N HCl (160 ml) was added. The mixture was stirred vigorously for 30 min and was then allowed to cool to ambient temperature. Subsequently, the mixture was submitted to vacuum filtration. The filter cake was washed thoroughly with water and dried in vacuo at 70° C. to give a pale yellow solid. Purification by flash column chromatography on silica gel using CH2Cl2 EtOAc=98 2 as the eluent gave the title compound (14.4 g, first fraction); 1H NMR (CDCl3) δ=8.40 (br s, 1H), 8.14 (d, 1H), 7.80 (d, 1H), 7.42 to 7.48 (m, 1H), 7.04 to 7.14 (m, 4H), 4.39 (t, 2H), 1.70 to 1.85 (m, 2H), 1.37 to 1.55 (m, 2H), 0.99 (t, 3H).

reactant | Sodium | 310 mmol, 7.2 g | [Na] | Na
reactant | [5-(4-Fluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid methyl ester | 150 mmol, 49.4 g | COC(CN1C(C2=CC=C(C=C2C1=O)OC1=CC=C(C=C1)F)=O)=O | C17H12FNO5
reactant | HCl | 2 N, 160 ml | Cl | ClH
reactant | n-butanol | 300 ml | C(CCC)O | C4H10O
reactant | n-butanol | 300 ml | C(CCC)O | C4H10O
product | 7-(4-Fluoro-phenoxy)-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester | 14.4 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)O | C20H18FNO5
